US03976695
By reacting 5-chloro-3,4-dibenzyloxystyrene oxide with cyclopropylmethylamine followed by hydrogenation there is obtained 5-chloro-α-(cyclopropylmethylaminomethyl)-3,4-dihydroxybenzyl alcohol.

reactant | 5-chloro-3,4-dibenzyloxystyrene oxide | ClC=1C(=C(C=C(C2CO2)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19ClO3
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | 5-chloro-α-(cyclopropylmethylaminomethyl)-3,4-dihydroxybenzyl alcohol | ClC=1C(=C(C=C(C(CNCC2CC2)O)C1)O)O | C12H16ClNO3
